US09126969B2
A solution of 380 mg of 1,1-diethyl-3-[3-(5-fluoro-6-perhydro-1,4-oxazepin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]urea in solution in 5 mL of a 4N solution of hydrochloric acid in dioxane is stirred at 22° C. for 2 hours. The reaction medium is concentrated under vacuum in a rotary evaporator, and then again reacted at 22° C. for 16 hours with 5 mL of a 4N solution of hydrochloric acid in dioxane is stirred at 22° C. The reaction medium is concentrated under vacuum in a rotary evaporator. The product is diluted in ethyl acetate, and washed with 2 times 20 mL of a 2N aqueous solution of sodium hydroxide. The aqueous phases are extracted with 3 times 20 mL of ethyl acetate. The organic phases are dried over MgSO4, filtered and concentrated under vacuum in a rotary evaporator. The yellow foam obtained is made into a paste in isopropyl ether, triturated, filtered and dried under vacuum at 40° C. 230 mg of 1,1-diethyl-3-[3-(5-fluoro-6-perhydro-1,4-oxazepin-4-yl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]urea are obtained in the form of a pale yellow solid. 1H NMR (500 MHz, DMSO-d6, δ in ppm): 1.23 (t, J=7.0 Hz, 6H); 1.96 (m, 2H); 3.35 (m masked, 4H); 3.39 (q partially masked, J=7.0 Hz, 4H); 3.79 (m, 4H); from 6.98 to 7.39 (broad m, 2H); 7.98 (s, 1H); 9.87 (broad s, 1H).

reactant | 1,1-diethyl-3-[3-(5-fluoro-6-perhydro-1,4-oxazepin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]urea | 380 mg | C(C)N(C(=O)NC=1C(=NN(C1)C1OCCCC1)C1=NC2=C(N1)C=C(C(=C2)F)N2CCOCCC2)CC | C25H34FN7O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 1,1-diethyl-3-[3-(5-fluoro-6-perhydro-1,4-oxazepin-4-yl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]urea | 230 mg | C(C)N(C(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=C(C(=C2)F)N2CCOCCC2)CC | C20H26FN7O2
